US05399575
2-{3-{4-[2-(4-Pyridinyl)-ethyl]-phenoxy}-propylthio}-benzoic acid
To the solution of 1.3 g (58 mmol) sodium in 100 ml ethanol one adds 5.7 g (29 mmol) 4-[2-(4-pyridinyl)-ethyl]-phenol, stirs for 10 min at room temperature, adds thereto 6.7 g (29 mmol) 2-(3-chloropropylthio)-benzoic acid and heats under reflux for 12 h. One allows to cool, filters, evaporates the filtrate, takes up in water, washes with ether, adjusts the aqueous phase to pH 5 and extracts with dichloromethane. After chromatography of the extract on silica gel and trituration with ligroin, one isolates 2.1 g of title compound (19% of theory) of the m.p. 151°-153° C.

reactant | sodium | 58 mmol, 1.3 g | [Na] | Na
reactant | 4-[2-(4-pyridinyl)-ethyl]-phenol | 29 mmol, 5.7 g | N1=CC=C(C=C1)CCC1=CC=C(C=C1)O | C13H13NO
reactant | 2-(3-chloropropylthio)-benzoic acid | 29 mmol, 6.7 g | ClCCCSC1=C(C(=O)O)C=CC=C1 | C10H11ClO2S
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 2-{3-{4-[2-(4-Pyridinyl)-ethyl]-phenoxy}-propylthio}-benzoic acid | 2.1 g, 19% | N1=CC=C(C=C1)CCC1=CC=C(OCCCSC2=C(C(=O)O)C=CC=C2)C=C1 | C23H23NO3S
